US04840965
A supension of 6-chloro-2,3-ethylenedioxy-1,4-naphthoquinone (2 g) in tetrahydrofuran was hydrogenated at 1 atm over 10% palladium-on-carbon (0.5 g). When the solution was colorless, a solution of acetic anhydride (4 g), pyridine (3.16 g) and 4-dimethylaminopyridine (0.2 g) in tetrahydrofuran (25 mL) was added. After 1 hour, the solution was filtered and evaporated, and the resdiue was dissolved in dichloromethane. The organic layer was washed with 1 M hydrcholoric acid and brine and then dried. The dried layer was filtered and evaported. Crystallization from ether gave 1.20 g of 6-chloro-2,3-ethylenedioxy-1,4-diacetyloxynaphthlene, mp 179°-180° C.

reactant | 6-chloro-2,3-ethylenedioxy-1,4-naphthoquinone | 2 g | ClC=1C=C2C(C3=C(C(C2=CC1)=O)OCCO3)=O | C12H7ClO4
reactant | acetic anhydride | 4 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 3.16 g | N1=CC=CC=C1 | C5H5N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.2 g | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | palladium-on-carbon | 0.5 g | [Pd] | Pd
product | 6-chloro-2,3-ethylenedioxy-1,4-diacetyloxynaphthlene | 1.20 g | ClC=1C=C2C(=C3C(=C(C2=CC1)OC(C)=O)OCCO3)OC(C)=O | C16H13ClO6
